US05472992
Preparation of Bis(2,4,6-trimethylbenzoyl)isobutylphosphine Oxide
140.6 ml (0.225 mol, 1.6 M) of butyllithium are added dropwise under nitrogen at 0° C. over the course of 30 minutes to a solution of 31.9 ml (0.225 mol) of diisopropylamine in 80 ml of tetrahydrofuran. This solution is added dropwise at -30° C. over the course of 90 minutes to a solution of 41.1 g (0.225 mol) of 2,4,6-trimethylbenzoyl chloride and 12 ml (0.102 mol) of isobutylphosphine in 200 ml of tetrahydrofuran. After the mixture has been stirred for 2 hours at -30° C., the yellow solution is allowed to warm to room temperature and is washed once with water. The organic phase is dried using magnesium sulfate, filtered and evaporated on a rotary evaporator. The residue is dissolved in 200 ml of toluene, and 11.6 g (0.102 mol) of 30% hydrogen peroxide are added. After the mixture has been stirred for 2 hours, it is washed first with water then with saturated sodium hydrogen carbonate solution. The organic phase is then dried using magnesium sulfate and filtered, and the solution is evaporated on a rotary evaporator. Crystallisation from hexane gives 27.8 g (68.5% of theory) of the abovementioned compound as a yellow powder. The melting point is 85°-86° C.

reactant | butyllithium | 0.225 mol, 1.6 M, 140.6 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.225 mol, 31.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,4,6-trimethylbenzoyl chloride | 0.225 mol, 41.1 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | isobutylphosphine | 0.102 mol, 12 ml | C(C(C)C)P | C4H11P
reactant | hydrogen peroxide | 0.102 mol, 11.6 g | OO | H2O2
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Bis(2,4,6-trimethylbenzoyl)isobutylphosphine Oxide | CC1=C(C(=O)P(CC(C)C)(C(C2=C(C=C(C=C2C)C)C)=O)=O)C(=CC(=C1)C)C | C24H31O3P
